US07723333B2
4-{2-[(tert-Butoxycarbonyl)amino]ethyl}phenyl methanesulfonate
tert-Butyl [2-(4-hydroxyphenyl)ethyl]carbamate (3.45 g, 14.54 mmol) was dissolved in dry DCM (70 mL) and cooled in an ice-water bath. Methanesulfonyl chloride (1.99 g, 17.45 mmol) was added followed by TEA (2.21 g, 21.80 mmol). The reaction mixture was stirred at rt for 2 h. The reaction mixture was washed with saturated aqueous NaHCO3, and the organic phase was dried with MgSO4, filtered and evaporated. Column chromatography of the crude product (ISOLUTE SI, (20 g), eluated with Heptane/EtOAc (90:10), Heptane/EtOAc (70:30)) afforded the title compound (4.06 g, 88.5%). 1H NMR (500 MHz, CD3OD): δ 1.43 (s, 9H), 2.80 (t, 2H), 3.20 (s, 3H), 3.29 (q, 2H), 7.25 (d, 2H), 7.31 (d, 2H).

reactant | tert-Butyl [2-(4-hydroxyphenyl)ethyl]carbamate | 14.54 mmol, 3.45 g | OC1=CC=C(C=C1)CCNC(OC(C)(C)C)=O | C13H19NO3
reactant | Methanesulfonyl chloride | 17.45 mmol, 1.99 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 70 mL | C(Cl)Cl | CH2Cl2
product | 4-{2-[(tert-Butoxycarbonyl)amino]ethyl}phenyl methanesulfonate | 4.06 g, 88.5% | CS(=O)(=O)OC1=CC=C(C=C1)CCNC(=O)OC(C)(C)C | C14H21NO5S
